US09303007B2
TFA (2 mL, 26.0 mmol) was added to a solution of a TFA salt of tert-butyl (1R,3S,5R)-3-(4-(6-(2-((1R,3S,5R)-2-(tert-butoxycarbonyl)-2-azabicyclo[3.1.0]hex-3-yl)-1H-benzimidazol-5-yl)-2-naphthyl)-5-chloro-1H-imidazol-2-yl)-2-azabicyclo[3.1.0]hexane-2-carboxylate (131 mg, 0.140 mmol) in DCM (10 mL) and the mixture was stirred for 3 h at rt. The volatiles were removed under vacuum and the residue was taken into MeOH and filtered through a Strata XC MCX cartridge. The cartridge was washed with methanol and the compound was release from the cartridge by eluting with a solution of 2M of ammonia/methanol. The ammonia/methanol filtrate was evaporated under reduced pressure to yield 2-((1R,3S,5R)-2-azabicyclo[3.1.0]hex-3-yl)-5-(6-(2-((1R,3S,5R)-2-azabicyclo[3.1.0]hex-3-yl)-4-chloro-1H-imidazol-5-yl)-2-naphthyl)-1H-benzimidazole (55 mg, 0.11 mmol) as tan solid. LC-MS retention time 1.375 min; m/z 507.33 (1:1) (MH+). LC data was recorded on a Shimadzu LC-10AS liquid chromatograph equipped with a Waters Sunfire C18 4.6×30 mm 5 μm column using a SPD-10AV UV-Vis detector at a detector wave length of 220 nM. The elution conditions employed a flow rate of 4 mL/min, a gradient of 100% Solvent A/0% Solvent B to 0% Solvent A/100% Solvent B, a gradient time of 2 min, a hold time of 1 min, and an analysis time of 3 min where Solvent A was 10% methanol/90% water/0.1% TFA and Solvent B was 10% water/90% methanol/0.1% TFA. MS data was determined using a MICROMASS® Platform for LC in electrospray mode. 1H NMR (500 MHz, MeOD) δ ppm 8.26 (s, 1H), 8.19 (s, 1H), 8.00-8.09 (m, 3H), 7.92 (ddd, J=12.1, 8.6, 1.8 Hz, 2H), 7.85 (dd, J=8.6, 1.5 Hz, 1H), 7.81 (d, J=8.6 Hz, 1H), 4.96 (dd, J=11.0, 7.6 Hz, 1H), 4.64 (app t, J=9.3 Hz, 1H), 3.53-3.59 (m, 1H), 3.44-3.50 (m, 1H), 2.82 (dd, J=13.0, 7.5 Hz, 1H), 2.61-2.74 (m, 3H), 2.03-2.15 (m, 2H), 1.24-1.30 (m, 1H), 1.18-1.24 (m, 1H), 0.96-1.09 (m, 2H).

reactant | TFA | 26.0 mmol, 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | tert-butyl (1R,3S,5R)-3-(4-(6-(2-((1R,3S,5R)-2-(tert-butoxycarbonyl)-2-azabicyclo[3.1.0]hex-3-yl)-1H-benzimidazol-5-yl)-2-naphthyl)-5-chloro-1H-imidazol-2-yl)-2-azabicyclo[3.1.0]hexane-2-carboxylate | 0.140 mmol, 131 mg | C(C)(C)(C)OC(=O)N1[C@@H]2C[C@@H]2C[C@H]1C1=NC2=C(N1)C=CC(=C2)C=2C=C1C=CC(=CC1=CC2)C=2N=C(NC2Cl)[C@H]2N([C@@H]1C[C@@H]1C2)C(=O)OC(C)(C)C | C40H43ClN6O4
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 2-((1R,3S,5R)-2-azabicyclo[3.1.0]hex-3-yl)-5-(6-(2-((1R,3S,5R)-2-azabicyclo[3.1.0]hex-3-yl)-4-chloro-1H-imidazol-5-yl)-2-naphthyl)-1H-benzimidazole | 0.11 mmol, 55 mg | [C@@H]12N[C@@H](C[C@H]2C1)C1=NC2=C(N1)C=CC(=C2)C2=CC1=CC=C(C=C1C=C2)C2=C(N=C(N2)[C@H]2N[C@@H]1C[C@@H]1C2)Cl | C30H27ClN6
